US05631259
50 g (0.4 mol) of 5-methylcytosine are added to a solution of the palladium(0) catalyst (1.6 mol %) prepared in situ as described above in 200 ml of dry tetrahydrofuran/200 ml of dry dimethylsulfoxide at 5° C. 49.2 g (0.6 mol) of epoxycyclopentene, dissolved in 100 ml of tetrahydrofuran, are added dropwise to this suspension, while stirring (1.5 hours). The mixture is stirred at room temperature for 3 days and then concentrated, and the residue is stirred with 2N sodium carbonate solution, filtered off and washed with water and acetone. 20.2 g (24.4% of theory) of 4-amino-5-methyl-1-[(1RS,4SR)-4-hydroxy-cyclopent-2-en-1-yl]pyrimidin-2(1H)-one of melting point 241°-245° C. are obtained. Chromatography (silica gel, methylene chloride/methanol 3/1) of the neutralized mother liquor gives, in addition to 5-methylcytosine (14.95 g, melting point 264°-269° C.) a further 9.87 g (11.9% of theory) of the title compound; total yield: 36.3% of theory. 1H NMR (270 MHz, d6 -DMSO); δ[ppm]: 7.23 (s, 1H), 7.12 (s, broad, 1H), 6.70 (s, broad, 1H), 6.09 (m, 1H), 5.74 (m, 1H), 5.45 (m, 1H), 5.17 (s, 1H), 4.61 (m, 1H), 2.71 (m, 1H), 1.81 (s, 3H), 1.27 (m, 1H).

reactant | 5-methylcytosine | 0.4 mol, 50 g | CC=1C(=NC(NC1)=O)N | C5H7N3O
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | epoxycyclopentene | 0.6 mol, 49.2 g | O1C2=C1CCC2 | C5H6O
catalyst | palladium(0) | [Pd] | Pd
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-amino-5-methyl-1-[(1RS,4SR)-4-hydroxy-cyclopent-2-en-1-yl]pyrimidin-2(1H)-one | 20.2 g, 24.4% | NC1=NC(N(C=C1C)C1C=CC(C1)O)=O | C10H13N3O2
